US04044021
1-Phenyl-2-imino-3-methyl-4-oxoimidazolidine hydrochloride
1.0 g. of 1-phenyl-2-imino-3-methyl-4-oxoimidazolidine was dissolved in 20 ml. of hot ethanol. This solution was added to 25 ml. of ethanolic HCl. No precipitate formed. This solution was then added to an excess of ether and the product precipitated. This was filtered and dried to give 1.0 g. (85%) of product, m.p. 279°-281° C.

reactant | 1-phenyl-2-imino-3-methyl-4-oxoimidazolidine | C1(=CC=CC=C1)N1C(N(C(C1)=O)C)=N | C10H11N3O
reactant | ethanol | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-Phenyl-2-imino-3-methyl-4-oxoimidazolidine hydrochloride | Cl.C1(=CC=CC=C1)N1C(N(C(C1)=O)C)=N | InChI=1S/C10H11N3O.ClH/c1-12-9(14)7-13(10(12)11)8-5-3-2-4-6-8;/h2-6,11H,7H2,1H3;1H
